US08236943B2
Synthesis of Dilinoleyl Ketone (V)
To a mixture of dilinoleyl methanol (2.0 g, 3.8 mmol) and anhydrous sodium carbonate (0.2 g) in 100 mL of CH2Cl2 was added pydimium chlorochromate (PCC, 2.0 g, 9.5 mmol). The resulting suspension was stirred at room temperature for 60 min. Ether (300 mL) was then added into the mixture, and the resulting brown suspension was filtered through a pad of silica gel (300 mL). The silica gel pad was further washed with ether (3×200 mL). The ether filtrate and washes were combined. Evaporation of the solvent gave 3.0 g of an oily residual as a crude product. The crude product was purified by column chromatography on silica gel (230-400 mesh, 250 mL) eluted with 0-3% ether in hexanes. This gave 1.8 g (90%) of dilinoleyl ketone (V). 1H NMR (400 MHz, CDCl3) δ: 5.25-5.45 (8H, m, 4×CH═CH), 2.78 (4H, t, 2×C═C—CH2—C═C), 2.39 (4H, t, 2×COCH2), 2.05 (8H, q, 4× allylic CH2), 1.45-1.7 (4H, m), 1.2-1.45 (32H, m), 0.90 (6H, t, 2×CH3) ppm.

reactant | dilinoleyl methanol | 3.8 mmol, 2.0 g | C(CCCCCCC\C=C/C\C=C/CCCCC)C(O)CCCCCCCC\C=C/C\C=C/CCCCC | C37H68O
reactant | sodium carbonate | 0.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chlorochromate | 9.5 mmol, 2.0 g | [Cr](=O)(=O)([O-])Cl
reactant | Ether | 300 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Dilinoleyl Ketone | C(CCCCCCC\C=C/C\C=C/CCCCC)C(=O)CCCCCCCC\C=C/C\C=C/CCCCC | C37H66O
